US04250316
1-Cyano-2-(2-propynylamino)-2-{2-[(3-chloro-2-pyridyl)methylthio]ethylamino}ethylene
When 2-[(3-chloro-2-pyridyl)methylthio]ethylamine is reacted with 1-cyano-2,2-bis(methoxy)ethylene and the resultant 1-cyano-2-methoxy-2-{2-[(3-chloro-2-pyridyl)methylthio]ethylamino}ethylene is reacted with propargylamine according to the general procedure of Example 1 Step B the title compound is produced.

reactant | 2-[(3-chloro-2-pyridyl)methylthio]ethylamine | ClC=1C(=NC=CC1)CSCCN | C8H11ClN2S
reactant | 1-cyano-2,2-bis(methoxy)ethylene | C(#N)C=C(OC)OC | C5H7NO2
reactant | 1-cyano-2-methoxy-2-{2-[(3-chloro-2-pyridyl)methylthio]ethylamino}ethylene | C(#N)C=C(NCCSCC1=NC=CC=C1Cl)OC | C12H14ClN3OS
reactant | propargylamine | C(C#C)N | C3H5N
product | 1-Cyano-2-(2-propynylamino)-2-{2-[(3-chloro-2-pyridyl)methylthio]ethylamino}ethylene | C(#N)C=C(NCCSCC1=NC=CC=C1Cl)NCC#C | C14H15ClN4S
